US08871819B2
Synthesis of Hexaglycerol Octyloctanoate (Method I)
Into a 250 mL vessel, hexaglycerol (5.0 g, 10.81 mmol) was added and dissolved into anhydrous DMSO (50 mL). Octanoic acid (13.71 mL, 86.49 mmol) was also dissolved into the reaction mixture which was stirred magnetically at room temperature for one hour to fully dissolve the reagents. N,N-dimethylaminopyridine (0.132 g, 1.08 mmol) and N-hydroxysuccinimide (0.124 g, 1.08 mmol) were both dissolved in the solution. When the catalysts were fully dissolved, N,N-diisopropylcarbodiimide (13.54 mL, 87.57 mmol) was pipetted into the vessel and was sealed to keep the reaction dry. The reaction proceeded overnight at 55° C. The solution was dialyzed in SpectraPor7 MWCO 1000 dialysis tubing to remove the DMSO and unreacted monomer. The polymer crashed out in water into a thick white liquid. After 3 days of dialysis, the solution was placed into a separatory funnel and the organic portion was dissolved into chloroform. The water layer was removed and the organic layer was dried with sodium sulfate. The solvent was stripped via rotoevaporation to leave a clear thick liquid product. NMR analysis supported full conversion of hydroxyl groups to the octanoic esters.

reactant | hexaglycerol | 10.81 mmol, 5.0 g | CCC(CO)(CO)CO | C6H14O3
reactant | Octanoic acid | 86.49 mmol, 13.71 mL | C(CCCCCCC)(=O)O | C8H16O2
reactant | N-hydroxysuccinimide | 1.08 mmol, 0.124 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N-diisopropylcarbodiimide | 87.57 mmol, 13.54 mL | CC(C)N=C=NC(C)C | C7H14N2
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | Hexaglycerol Octyloctanoate | C(CCCCCCC)C(C(=O)O)CCCCCC.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO | InChI=1S/C16H32O2.6C3H8O3/c1-3-5-7-9-10-12-14-15(16(17)18)13-11-8-6-4-2;6*4-1-3(6)2-5/h15H,3-14H2,1-2H3,(H,17,18);6*3-6H,1-2H2
